US09233956B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-fluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (65 mg, 0.189 mmol) and 3-fluorobenzenesulfonyl chloride (0.030 mL, 0.227 mmol), the title compound was obtained as an off white solid (64 mg, 67% yield). MS (ESI): 502.2 [M+H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.189 mmol, 65 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | 3-fluorobenzenesulfonyl chloride | 0.227 mmol, 0.030 mL | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-fluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)F)F | C23H21F2N5O2S2
